US06479490B2
Toluenesulfonic acid (10 mg) was added to a solution of 3-(1-methylindol-3-yl)-4-{3-((R)-2,2-dimethyl-1,3-dioxolan-4-ylmethylsulfanyl)phenyl]-1H-pyrrole-2,5-dione (60 mg) in methanol (10 mL) and water (1 mL) and the reaction mixture was heated at 50° C. for 2 h. The volatiles were removed and the residue was partitioned between water and EtOAc. The organic layer was washed with NaCl (sat.) and dried over sodium sulfate. The crude product was purified on a silica gel column with 10/45/45 of MeOH/CH2Cl2/hexane and further purified by recrystallization from CH2Cl/hexane to give 3-(1-methylindol-3-yl)-4-[3-((R)-2,3-dihydroxypropylsulfanyl)phenyl]-1H-pyrrole-2,5-dione (47 mg). MS (EI): M+ 408.

reactant | Toluenesulfonic acid | 10 mg | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
reactant | 3-(1-methylindol-3-yl)-4-{3-((R)-2,2-dimethyl-1,3-dioxolan-4-ylmethylsulfanyl)phenyl]-1H-pyrrole-2,5-dione | 60 mg | CN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CC(=CC=C1)SC[C@@H]1OC(OC1)(C)C)=O)=O | C25H24N2O4S
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
product | 3-(1-methylindol-3-yl)-4-[3-((R)-2,3-dihydroxypropylsulfanyl)phenyl]-1H-pyrrole-2,5-dione | 47 mg | CN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CC(=CC=C1)SC[C@@H](CO)O)=O)=O | C22H20N2O4S
